US07307084B2
AI. 4-Benzyloxy-6-bromo-2-trifluoromethyl-1H-benzimidazole
To a suspension of 26.1 g (67.4 mmol) 4benzyloxy-6-bromo-2-trifluoromethyl-benzimidazol-1-ol in chloroform (260 ml) were cautiously added 19 ml (202 mmol) phosphorus tribromide and the reaction was refluxed for 4 h. After cooling to room temperature, the reaction mixture was poured into water (600 ml), neutralized with sodium bicarbonate solution and extracted with dichloromethane. The organic layers were dried over magnesium sulphate and concentrated in vacuo to afford 19.8 g (79%) of the title compound as a brown oil.

reactant | 4benzyloxy-6-bromo-2-trifluoromethyl-benzimidazol-1-ol | 67.4 mmol, 26.1 g | C(C1=CC=CC=C1)OC1=CC(=CC=2N(C(=NC21)C(F)(F)F)O)Br | C15H10BrF3N2O2
reactant | phosphorus tribromide | 202 mmol, 19 ml | P(Br)(Br)Br | Br3P
reactant | water | 600 ml | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 260 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-Benzyloxy-6-bromo-2-trifluoromethyl-1H-benzimidazole | 19.8 g, 79% | C(C1=CC=CC=C1)OC1=CC(=CC=2NC(=NC21)C(F)(F)F)Br | C15H10BrF3N2O
